US08633173B2
2-(4-{4-[8-(2-Fluoro-4-methoxy-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-ylamino]-phenyl}-piperidin-1-yl)-N,N-dimethyl-acetamide was prepared from [8-(2-fluoro-4-methoxy-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-yl]-(4-piperidin-4-yl-phenyl)-amine (0.179 g, 0.429 mmol) and 2-chloro-N,N-dimethyl-acetamide (0.066 mL, 0.643 mmol) in a manner analogous to Example 313 to give product (0.105 g, 49%). MP=192-195° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.61 (s, 1H), 8.79 (d, 1H), 7.80 (m, 1H), 7.58 (m, 3H), 7.15 (m, 3H), 6.98 (m, 2H), 3.85 (s, 3H), 3.15 (s, 2H), 3.05 (s, 3H), 2.92 (m, 2H), 2.85 (s, 3H), 2.40 (m, 1H), 2.10 (m, 2H), 1.65 (m, 4H). MS=503 (MH)+.

reactant | [8-(2-fluoro-4-methoxy-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-yl]-(4-piperidin-4-yl-phenyl)-amine | 0.429 mmol, 0.179 g | FC1=C(C=CC(=C1)OC)C=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)C2CCNCC2 | C24H24FN5O
reactant | 2-chloro-N,N-dimethyl-acetamide | 0.643 mmol, 0.066 mL | ClCC(=O)N(C)C | C4H8ClNO
product | 2-(4-{4-[8-(2-Fluoro-4-methoxy-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-ylamino]-phenyl}-piperidin-1-yl)-N,N-dimethyl-acetamide | FC1=C(C=CC(=C1)OC)C=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)C2CCN(CC2)CC(=O)N(C)C | C28H31FN6O2
